US07129235B2
ethyl 3-hydroxy-4-piperidinecarboxylate
Ethyl 1-benzyl-3-hydroxy-4-piperidinecarboxylate in ethanol (10 mL) was treated with Pd(OH)2 (20% on carbon, 50 mg) under a hydrogen atmosphere (1 atm) and stirred for 5 hours. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure.

reactant | Ethyl 1-benzyl-3-hydroxy-4-piperidinecarboxylate | C(C1=CC=CC=C1)N1CC(C(CC1)C(=O)OCC)O | C15H21NO3
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Pd(OH)2 | 50 mg | [OH-].[OH-].[Pd+2]
product | ethyl 3-hydroxy-4-piperidinecarboxylate | OC1CNCCC1C(=O)OCC | C8H15NO3
